US08486964B2
3-(3-azabicyclo[3.1.0]hex-1-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
To tert-butyl 1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-3-azabicyclo[3.1.0]hexane-3-carboxylate (100 mg, 0.3 mmol) in dioxan (3 ml) was added 1 mL of a 4M solution of HCl in dioxan. The reaction mixture was stirred at RT for 12 h and concentrated to dryness to afford the title compound as a buff colored solid (60 mg), which was used immediately in the following step.

reactant | tert-butyl 1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-3-azabicyclo[3.1.0]hexane-3-carboxylate | 0.3 mmol, 100 mg | N1C=C(C=2C1=NC=CC2)C21CN(CC1C2)C(=O)OC(C)(C)C | C17H21N3O2
reactant | HCl | Cl | ClH
solvent | dioxan | 3 ml | O1CCOCC1 | C4H8O2
product | 3-(3-azabicyclo[3.1.0]hex-1-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 60 mg | Cl.C12(CNCC2C1)C1=CNC2=NC=CC=C21 | InChI=1S/C12H13N3.ClH/c1-2-9-10(6-15-11(9)14-3-1)12-4-8(12)5-13-7-12;/h1-3,6,8,13H,4-5,7H2,(H,14,15);1H
